US06855710B2
b) 4-(4-aminophenylmethyl)-thiomorpholine-1-oxide
1.2 g of Raney nickel are added to a solution of 3.9 g (15 mmol) of 4-(4-nitrophenylmethyl)-thiomorpholine-1-oxide in 10 ml of dichloromethane and 40 ml of methanol. The mixture is hydrogenated under a hydrogen atmosphere. The product is obtained by chromatography on silica gel (dichloromethane/methanol=9:1).

reactant | 4-(4-nitrophenylmethyl)-thiomorpholine-1-oxide | 15 mmol, 3.9 g | [N+](=O)([O-])C1=CC=C(C=C1)CN1CCS(CC1)=O | C11H14N2O3S
catalyst | Raney nickel | 1.2 g | [Ni] | Ni
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 40 ml | CO | CH4O
product | 4-(4-aminophenylmethyl)-thiomorpholine-1-oxide | NC1=CC=C(C=C1)CN1CCS(CC1)=O | C11H16N2OS
